US05763458
N-Methoxy-N-methyl-4-amino-5-chloro-2-methoxybenzamide (24.4 g, 100 mmol) was dissolved in THF (400 mL) and the solution was cooled to -400° C. Methyl-lithium in ether (143 mL, 4.4 g, 200 mmol) ) was added and the mixture was allowed to warm to 0° C. Aqueous hydrochloric acid was added and the mixture was extracted into ethyl acetate. The extract was washed with brine, dried over sodium sulfate, and evaporated to leave a solid. Crystallization from ethyl acetate-hexane gave 4'-amino-5'-chloro-2'-methoxyacetophenone (15.0 g, 75 mmol), m.p. 114°-116° C.

reactant | N-Methoxy-N-methyl-4-amino-5-chloro-2-methoxybenzamide | 100 mmol, 24.4 g | CON(C(C1=C(C=C(C(=C1)Cl)N)OC)=O)C | C10H13ClN2O3
reactant | Methyl-lithium | C[Li]
reactant | ether | 200 mmol, 143 mL, 4.4 g | CCOCC | C4H10O
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 4'-amino-5'-chloro-2'-methoxyacetophenone | 75 mmol, 15.0 g | NC1=CC(=C(C=C1Cl)C(C)=O)OC | C9H10ClNO2
